US05185251
Step F: Preparation of 3-[2-(benzoxazol-2-yl)ethyl]-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone
A solution of cis/trans 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-benzyloxymethyl-2-benzyloxypyridine (1.40 g, 2.94 mmol) in dry tetrahydrofuran (20 mL) and methanol (15 mL) containing 10% Pd on charcoal (215 mg) as a catalyst was hydrogenated at atmospheric pressure for 20 hours. The catalyst was filtered off and the solution evaporated to give a white residue. This residue was triturated with diethyl ether to give pure product with m.p. of 140°-142° C.

reactant | trans 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-benzyloxymethyl-2-benzyloxypyridine | 2.94 mmol, 1.40 g | O1C(=NC2=C1C=CC=C2)/C=C/C=2C(=NC(=C(C2)CC)COCC2=CC=CC=C2)OCC2=CC=CC=C2 | C31H28N2O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd on charcoal | 215 mg | [Pd] | Pd
product | 3-[2-(benzoxazol-2-yl)ethyl]-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone | O1C(=NC2=C1C=CC=C2)CCC=2C(NC(=C(C2)CC)COCC2=CC=CC=C2)=O | C24H24N2O3
